US08610345B2
A mixed solution of 2.0 g of 1-bromopyrene, 1.9 g of 4-t-butylphenylboronic acid, 3.1 g of tripotassium phosphate, 0.46 g of tetrabutylammonium bromide, 70 mg of palladium acetate and 70 mL of dimethylformamide was heated and stirred under a nitrogen gas stream at 130° C. for 2 hours. The solution was cooled to room temperature and poured into 350 mL of water, and then the precipitated solid was collected by filtration. The resulting solid was dissolved in dichloromethane, washed with water, dried over magnesium sulfate and then concentrated. The resulting crude product was purified by column chromatography and then vacuum-dried to obtain 1.9 g of 1-(4-t-butylphenyl)pyrene.

reactant | 1-bromopyrene | 2.0 g | BrC1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H9Br
reactant | 4-t-butylphenylboronic acid | 1.9 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | tripotassium phosphate | 3.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 0.46 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 70 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 350 mL | O | H2O
product | 1-(4-t-butylphenyl)pyrene | 1.9 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C26H22
